US04994455
Ethyl-4-[4-(2-pyrimidinyl)-1-piperazinyl]butyrate
1.2 equivalents of 1-(2-pyrimidinyl)piperazine hydrochloride was dissolved in water and the solution made strongly basic (pH 12-14) with 10% NaOH. The 2-phase mixture (the product is a yellow oil) was extracted three times with methyl isobutyl ketone (MIBK). The MIBK solution resulting was placed in a single neck round bottom flask fitted with magnetic stirrer, condenser and nitrogen atmosphere, and a Dean-Stark trap. To this solution was added 1 equivalent of ethyl 4-bromobutyrate, 1.1 equivalent of Na2CO3 and a catalytic quantity of KI. The resulting mixture was then refluxed for 4 hours and then cooled to room temperature. Inorganic solids were filtered off and the filtrate was condensed to give the title compound yellow oil. Yield 75%.

reactant | 1-(2-pyrimidinyl)piperazine hydrochloride | 1.2 equivalents | Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | NaOH | [OH-].[Na+]
reactant | ethyl 4-bromobutyrate | 1 equivalent | BrCCCC(=O)OCC | C6H11BrO2
reactant | Na2CO3 | 1.1 equivalent | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | Ethyl-4-[4-(2-pyrimidinyl)-1-piperazinyl]butyrate | Yield 75% | C(C)OC(CCCN1CCN(CC1)C1=NC=CC=N1)=O | C14H22N4O2
